datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[S:3][H:10])([H:4])([H:5])[H:6].[c:11]1([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]1[H:22]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([S:3][H:10])[H:17])([H:4])([H:5])[H:6].[c:11]1[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]1[H:22],87.6548
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[H:10]>>[C:0]([C:1]([N:2][H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[H:8][H:10],28.898888
[O:0]=[C:1]([C:2](=[C:3]([O:4][H:8])[H:7])[H:6])[H:5].[O:9]>>[H:5][O:9].[O:0]=[C:1][C:2](=[C:3]([O:4][H:8])[H:7])[H:6],5.811576
[H:4].[O:0]=[C:1][O:2][H:3]>>[H:3][H:4].[O:0]=[C:1]=[O:2],2.32212
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2](=[C:3]([H:14])[H:15])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:12])[H:13])([H:9])([H:10])[H:11].[O:4][O:5][H:16],60.668
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9]([C:8]([H:12])([H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20],-3.7656
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[C:29]([C:30]([H:33])([H:34])[H:35])([H:31])[H:32]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[C:29]([C:30]([H:33])([H:34])[H:35])([H:31])[H:32])([H:15])([H:16])[H:17],32.677
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6]([C:7]([H:15])[H:16])([H:13])[H:14])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6]([H:13])([H:14])[C:7]1([H:15])[H:16])[H:8],124.725
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7](=[S:8])[H:12])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:9])[H:3].[C:6]([C:7](=[S:8])[H:12])([H:10])[H:11],50.6264
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6](=[C:7]([H:9])[H:10])[H:8]>>[C:0]([S:1][C:6](=[C:7]([H:9])[H:10])[H:8])([H:2])([H:3])[H:4].[H:5],29.7064
[C:1]1([H:3])=[C:4]([C:5]([C:6]([H:7])[H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])=[C:16]1[H:18]>>[C:1]1([H:3])[C:6]([H:8])=[C:4]2[C:5]([H:9])([H:10])[C:16]1([H:18])[C:14]([H:7])([H:15])[C:11]2([H:12])[H:13],195.8112
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([H:4])([H:5])[H:6])[C:9]([C:8](=[C:7]([H:11])[H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14])[H:3],62.1324
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20](=[C:21][C:22]([H:25])([H:26])[H:27])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[C:21](=[C:20]([H:23])[H:24])[C:22]([H:25])([H:26])[H:27])[H:10])([H:8])[H:9],14.393
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][H:25]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:9])[H:10].[H:8][O:24][H:25],1.142232
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([H:13])[H:14])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:9]([C:10]([H:13])[H:14])([H:11])[H:12])[H:4],37.1539
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20](=[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:27])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:14])[C:22]([C:21](=[C:20]([H:25])[H:26])[H:27])([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:13])[H:12])([H:10])[H:11],43.9738
[N:0]([N:1]([H:3])[H:4])[H:2].[O:5][O:6][H:7]>>[N:0]([N:1]([H:3])[H:4])([H:2])[H:7].[O:5][O:6],8.895184
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12](=[C:13]([C:14]([H:20])([H:21])[H:22])[H:19])[H:18])[H:17])([H:15])[H:16]>>[C:0]1([H:4])([H:5])[C:1]([H:6])=[C:2]([H:7])[C:3]([H:8])([H:9])[C:13]([C:14]([H:20])([H:21])[H:22])([H:19])[C:12]1([C:11](=[C:10]([H:15])[H:16])[H:17])[H:18],92.299
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11][S:12][H:15])([H:13])[H:14]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:11](=[C:10]([H:13])[H:14])[S:12][H:15],24.2672
